US09403835B2
Step 3: 4-(2-carboxy-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (214 mg; 2.36 mmol; 5.5 eq.) and sodium dihydrogenphosphate (186 mg; 1.55 mmol; 3.6 eq.) in water (2 mL) was added dropwise to a mixture of 4-(2-formyl-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester (160 mg; 0.43 mmol; 1 eq.) in 1,4-dioxane (2 mL). The reaction mixture was stirred at room temperature for 1 hour and the 1,4-dioxane concentrated in vacuo. The aqueous solution was diluted with water, the pH made acidic with 0.1M HCl and extracted with EA (2×). The combined organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (140 mg, 84%) as a yellow solid. UPLC/MS: (MS+) 389.2 ([M+H]+).

reactant | sodium chlorite | 2.36 mmol, 214 mg, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 1.55 mmol, 186 mg, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 4-(2-formyl-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.43 mmol, 160 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CCN(CCC1C(F)(F)F)C1=C(C=CC=C1)C=O | C18H23F3N2O3
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(2-carboxy-phenyl)-7-trifluoromethyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 140 mg, 84% | C(C)(C)(C)OC(=O)N1CCN(CCC1C(F)(F)F)C1=C(C=CC=C1)C(=O)O | C18H23F3N2O4
